US06452014B1
2-[4-[(2,4-Dioxothiazolidin-5-ylidene)methyl]phenyl]-4-hydroxybenzimidazole was prepared from 5-(4-formylbenzylidene)-2,4-thiazolidinedione and 2,3-diaminophenol by following General Procedure 2.

reactant | 5-(4-formylbenzylidene)-2,4-thiazolidinedione | C(=O)C1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C11H7NO3S
reactant | 2,3-diaminophenol | NC1=C(C=CC=C1N)O | C6H8N2O
product | 2-[4-[(2,4-Dioxothiazolidin-5-ylidene)methyl]phenyl]-4-hydroxybenzimidazole | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C=1NC2=C(N1)C=CC=C2O | C17H11N3O3S
